US04552873
3-Acetylthio-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine
To 300 ml of anhydrous N,N-dimethylformamide were added 7.35 g of sodium hydride in the form of a 55% w/w/ dispersion in oil, followed by 12.5 g of thioacetic acid. The mixture was then stirred for 10 minutes, with ice-cooling, after which 40 g of 3-methanesulphonyloxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine were added. The mixture was then stirred for 3 hours at 65° C. After the reaction mixture had been allowed to cool, water was added and the mixture was extracted with ethyl acetate. The extract was washed with water and dried and then the solvent was distilled off under reduced pressure. The residue was purified by chromatography through a column of silica gel, eluted with a 2:1 by volume mixture of benzene and ethyl acetate, to give 30 g of the title compound.

reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 7.35 g | [H-].[Na+]
reactant | thioacetic acid | 12.5 g | C(C)(=S)O | C2H4OS
reactant | 3-methanesulphonyloxy-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine | 40 g | CS(=O)(=O)OC1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O7S
solvent | water | O | H2O
product | 3-Acetylthio-1-(N-p-nitrobenzyloxycarbonylacetimidoyl)pyrrolidine | 30 g | C(C)(=O)SC1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H19N3O5S
